US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (300 mg) and sec-butylamine (188 μl) were subjected to similar reactions to those described in References 2 and 4 to give 2-sec-butylaminocarbonylthioethylamine (crude formate: 227 mg). The product was dissolved in anhydrous methanol (5 ml). Triethylamine (342 μl) and mitomycin A (137 mg: 0.8 molar equivalent) were added to the reaction solution which was then treated in a similar manner to that described in Example 1 to obtain Compound 30 (94 mg) in the form of grayish blue powders with a yield of 49%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 300 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | sec-butylamine | 188 μl | C(C)(CC)N | C4H11N
product | 2-sec-butylaminocarbonylthioethylamine | 227 mg | C(C)(CC)NC(=O)SCCN | C7H16N2OS
